US06107309
N,N'-Bis(picolinoyl)-1,3-diamino-2,2-dimethylpropane
A solution of 2,2-dimethyl-1,3-propanediamine (5.00 g, 48.9 mmol) in DMF (500 mL) was treated with picolinic acid (12.6 g, 0.10 mol), 1-hydroxybenzotriazole hydrate (13.9 g, 0.10 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (19.7 g, 0.10 mol) and iPr2NEt (17.9 mL, 0.10 mol) at room temperature. After 18 h, the reaction mixture was evaporated under vacuum and the residue purified by flash chromatography (75% EtOAc/hexanes, silica gel) to give 13.95 g (91%) the above named product as a clear solid. A fraction of this product (5.63 g) was recrystallized from ethyl acetate/hexane by slow evaporation to give 3.92 g of pure product as white needles. MS (ES+) m/e 313 [M+H+ ].

reactant | 2,2-dimethyl-1,3-propanediamine | 48.9 mmol, 5.00 g | CC(CN)(CN)C | C5H14N2
reactant | picolinic acid | 0.10 mol, 12.6 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-hydroxybenzotriazole hydrate | 0.10 mol, 13.9 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.10 mol, 19.7 g | Cl.CN(CCCN=C=NCC)C
reactant | iPr2NEt | 0.10 mol, 17.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | N,N'-Bis(picolinoyl)-1,3-diamino-2,2-dimethylpropane | 3.92 g | N1=C(C=CC=C1)C(=O)NCC(CNC(C1=NC=CC=C1)=O)(C)C | C17H20N4O2
